US07087606B2
2) Preparation of 2-cyclopropylmethyl-4-[2,2-di(tert-butoxycarbonyl)ethyl]-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one
After 55% sodium hydride (322 mg, 7.38 mmol) was added to a solution of di-tert-butyl malonate (970 mg, 4.48 mmol) in N,N-dimethylformamide (10 mL), 4-bromomethyl-2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one (1.8 g, 4.90 mmol) was added under ice-cold stirring. The reaction mixture was stirred at room temperature for 1 hour, poured into water, and extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was isolated and purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to yield the title compound as a yellow powder (yield: 1.39 mg, 61.8%).

reactant | sodium hydride | 7.38 mmol, 322 mg | [H-].[Na+]
reactant | di-tert-butyl malonate | 4.48 mmol, 970 mg | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | 4-bromomethyl-2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | 4.90 mmol, 1.8 g | BrCC=1C(N(N=C(C1)C1=CC(=C(C=C1)OC)F)CC1CC1)=O | C16H16BrFN2O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-cyclopropylmethyl-4-[2,2-di(tert-butoxycarbonyl)ethyl]-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | yield: 1.39 mg, 61.8% | C1(CC1)CN1N=C(C=C(C1=O)CC(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C1=CC(=C(C=C1)OC)F | C27H35FN2O6
